US07560558B2
Compound 411: 3-[6-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yl]-propan-1-ol
Ethyl 3-[6-methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yl]-propionate (80 mg) was dissolved in tetrahydrofuran (5 ml) to prepare a solution. A diisobutylaluminum hydride/0.93 M hexane solution (1 ml) was added to the solution under ice cooling, and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (50 mg, yield 69%).

reactant | Ethyl 3-[6-methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yl]-propionate | 80 mg | COC=1C=C2C(=CC=NC2=CC1CCC(=O)OCC)OC=1C(=NC2=CC=CC=C2C1)C | C25H24N2O4
reactant | diisobutylaluminum hydride | 0.93 M, 1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[6-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yl]-propan-1-ol | 50 mg, yield 69% | COC=1C=C2C(=CC=NC2=CC1CCCO)OC=1C(=NC2=CC=CC=C2C1)C | C23H22N2O3
